US07348342B2
Step 1: Preparation of 5-hydroxy-4(4-methylsulfanylphenyl)-3-phenyl isoxazole
To a stirred solution of 1-phenyl-2-(4-methylsulfanylphenyl) ethanone oxime (2.0 g) in dry THF (20 mL), was added a solution of n-butyl lithium (0.98 M. 25 mL) in hexane at −70° C. over a period of 30 minutes. The reaction mixture was warmed to 20° C. over a period of 2 h. To this was added solid CO2 (25 g) and the reaction mixture was stirred at the same temperature for 30 minutes. The reaction mixture was quenched with cold 1N HCl (20 mL) and extracted with ethyl acetate (3×50 mL). The organic extract was washed with water (100 mL); brine (100 mL), dried over sodium sulphate and evaporated under reduced pressure. The crude product was chromatographed over silicagel using 10% ethyl acetate in petroleum ether as eluent, yielding 1.2 g of pure product as a thick liquid.

reactant | 1-phenyl-2-(4-methylsulfanylphenyl) ethanone oxime | 2.0 g | C1(=CC=CC=C1)C(CC1=CC=C(C=C1)SC)=NO | C15H15NOS
reactant | n-butyl lithium | 0.98 M, 25 mL | C(CCC)[Li]
reactant | CO2 | 25 g | C(=O)=O | CO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-hydroxy-4(4-methylsulfanylphenyl)-3-phenyl isoxazole | 1.2 g | OC1=C(C(=NO1)C1=CC=CC=C1)C1=CC=C(C=C1)SC | C16H13NO2S
